US09301951B2
3-(3-((2-(4-((4-(1H-pyrazol-1-yl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL 3-necked round bottom flask, was placed tert-butyl 3-(3-((2-(4-((4-(1H-pyrazol-1-yl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoate (130 mg, 0.18 mmol, 1.00 equiv), and dichloromethane (2 mL). This was followed by dropwise addition of trifluoroacetic acid (3 mL) with stirring. The resulting solution was stirred for 60 min at room temperature. The solution was adjusted to pH 7 with sodium bicarbonate (aq). The resulting solution was diluted with 30 mL of dichloromethane and washed with 2×10 mL of H2O. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (300 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 86.9 mg (72%) of a yellow solid. 1H-NMR: (300 MHz, DMSO-d6+D2O, ppm): δ 1.63 (m, 2H), 1.82 (m, 4H), 2.58-2.62 (m, 4H), 3.47 (t, 4H), 3.87 (s, 2H), 4.56 (d, 2H), 6.53 (s, 1H), 7.44-7.54 (m, 4H), 7.72-7.79 (m, 3H), 7.87-7.89 (m, 2H), 8.36 (s, 1H), 8.42 (s, 1H), 8.99 (d, 1H), 9.53 (s, 1H), 11.97 (s, 1H). MS (ES, m/z): 675 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((4-(1H-pyrazol-1-yl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoate | 0.18 mmol, 130 mg, 1.00 equiv | N1(N=CC=C1)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=C1 | C42H46N6O4S
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(3-((2-(4-((4-(1H-pyrazol-1-yl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoic acid | 86.9 mg, 72% | N1(N=CC=C1)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=C1 | C38H38N6O4S
